US04128654
Preparation of 5-chloromethyl-3-[4-(1-methylethyl)phenyl]-2-oxazolidinone
0.2-0.3 grams of lithium chloride was added to a solution of 7 grams (0.076 mole) epichlorohydrin in 30 ml dimethylformamide at 90° C. Heating was discontinued, and a solution of 12.25 grams (0.076 mole) 4(1-methylethyl)phenylisocyanate in 10 ml dimethylformamide was added dropwise at such a rate that the reaction temperature did not exceed 110° C. When the addition was complete heat was reapplied and the reaction solution was stirred at 90° C. for 3 hours. The solution was then added in a slow stream to a vigorously stirred mixture of ice and water, about 200 ml total volume. The reaction product solidified and was recovered by filtration. Recrystallization from methanol afforded an 85% yield of white crystalline material (mp 77°-79° C.).

reactant | lithium chloride | 0.2-0.3 grams | [Cl-].[Li+]
reactant | epichlorohydrin | 0.076 mole, 7 grams | C(Cl)C1CO1 | C3H5ClO
reactant | 4(1-methylethyl)phenylisocyanate | 0.076 mole, 12.25 grams | CC(C)C1=CC=C(C=C1)N=C=O | C10H11NO
reactant | water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5-chloromethyl-3-[4-(1-methylethyl)phenyl]-2-oxazolidinone | 85% yield | ClCC1CN(C(O1)=O)C1=CC=C(C=C1)C(C)C | C13H16ClNO2
